US08372842B2
30% H2O2 (0.159 mL, 1.65 mmol) was added to a solution of LiOH—H2O (0.055 g, 1.32 mmol) in 2:1 THF:H2O (40 mL). The mixture was stirred for 20 minutes and then cooled to 0° C. A solution of (S)-tert-butyl 5-((S)-2-((R)-4-benzyl-2-oxooxazolidin-3-yl)-1-(4-chloro-3-fluorophenyl)-2-oxoethyl)-2,2-dimethylpyrrolidine-1-carboxylate (0.360 g, 0.660 mmol) in THF (3 mL) was next added slowly. Upon completion of the addition, the reaction was allowed to warm to room temperature and stirred overnight. The reaction mixture was then recooled to 0° C., and 1M Na2SO3 (4 mL) was added. The reaction was stirred for 10 minutes at 0° C. and then warmed to room temperature and stirred for an additional 10 minutes. The reaction was then concentrated in vacuo to remove THF, and the resulting mixture was washed with EtOAc. The organic fraction was then dried over sodium sulfate, filtered and concentrated to give (S)-2-((S)-1-(tert-butoxycarbonyl)-5,5-dimethylpyrrolidin-2-yl)-2-(4-chloro-3-fluorophenyl)acetic acid sodium salt (0.24 g, 94%) as a powder. MS ESI (+) m/z 386 detected.

reactant | H2O2 | 1.65 mmol, 0.159 mL | OO | H2O2
reactant | LiOH—H2O | 1.32 mmol, 0.055 g | O[Li].O
reactant | (S)-tert-butyl 5-((S)-2-((R)-4-benzyl-2-oxooxazolidin-3-yl)-1-(4-chloro-3-fluorophenyl)-2-oxoethyl)-2,2-dimethylpyrrolidine-1-carboxylate | 0.660 mmol, 0.360 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](C1=CC(=C(C=C1)Cl)F)[C@@H]1CCC(N1C(=O)OC(C)(C)C)(C)C)=O | C29H34ClFN2O5
reactant | Na2SO3 | 1M, 4 mL | [O-]S(=O)[O-].[Na+].[Na+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | H2O | 40 mL | O | H2O
product | (S)-2-((S)-1-(tert-butoxycarbonyl)-5,5-dimethylpyrrolidin-2-yl)-2-(4-chloro-3-fluorophenyl)acetic acid sodium salt | 0.24 g, 94% | [Na+].C(C)(C)(C)OC(=O)N1[C@@H](CCC1(C)C)[C@@H](C(=O)[O-])C1=CC(=C(C=C1)Cl)F | InChI=1S/C19H25ClFNO4.Na/c1-18(2,3)26-17(25)22-14(8-9-19(22,4)5)15(16(23)24)11-6-7-12(20)13(21)10-11;/h6-7,10,14-15H,8-9H2,1-5H3,(H,23,24);/q;+1/p-1/t14-,15-;/m0./s1
